US07446118B2
3-(4-Methoxy-1H-indol-6-yl)-3-pyridin-2-yl-acrylic acid ethyl ester CLXXIV was prepared from 4-methoxy-6-bromo-1H-indole and 3-pyridin-2-yl-acrylic acid ethyl este using the procedure described for preparation of 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (Example 14).

reactant | 4-methoxy-6-bromo-1H-indole | COC1=C2C=CNC2=CC(=C1)Br | C9H8BrNO
reactant | 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(4-Methoxy-1H-indol-6-yl)-3-pyridin-2-yl-acrylic acid ethyl ester | C(C)OC(C=C(C1=NC=CC=C1)C1=CC(=C2C=CNC2=C1)OC)=O | C19H18N2O3
